US07745641B2
In a similar manner to Step 4 of Example 16, 3-hydroxy-4-chloro-5-fluoro-7-iodo-2(1-methyl-1-phenylethyl)isoindolinone (806 mg, 1.81 mmol) was dissolved in nitromethane (32 mL), and the solution was treated with trifluoroacetic acid (1.40 mL, 18.1 mmol) and triethylsilane (0.578 mL, 3.62 mmol), followed by purification by slurry using diisopropylether to obtain 4-chloro-5-fluoro-7-iodoisoindolinone (477 mg, yield 85%).

reactant | 3-hydroxy-4-chloro-5-fluoro-7-iodo-2(1-methyl-1-phenylethyl)isoindolinone | 1.81 mmol, 806 mg | OC1N(C(C2=C(C=C(C(=C12)Cl)F)I)=O)C(C)(C1=CC=CC=C1)C | C17H14ClFINO2
reactant | trifluoroacetic acid | 18.1 mmol, 1.40 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | triethylsilane | 3.62 mmol, 0.578 mL | C(C)[SiH](CC)CC | C6H16Si
solvent | nitromethane | 32 mL | [N+](=O)([O-])C | CH3NO2
product | 4-chloro-5-fluoro-7-iodoisoindolinone | 477 mg, yield 85% | ClC1=C2CNC(C2=C(C=C1F)I)=O | C8H4ClFINO
